*$
* LM2731Y
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LM2731Y
* Date: 16SEP2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: LM2731/LM2733 Evaluation Board
* EVM Users Guide: SNVA066B – April 2003 – Revised April 2013
* Datasheet: SNVS217F – MAY 2004 – REVISED NOVEMBER 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to WeB
*
*****************************************************************************
.SUBCKT LM2731Y_TRANS VIN SHDN_N SW FB GND
E_BStartup BG1 Gnd value = { IF(V(SHDN_N) > 1.5 & V(Vin) > 1.23 , 1.23 , 0)}
Rref BG1 BG 5
Cref BG Gnd 72n
V1 Ref5v 0 DC=5
VMAX_DUTY MAXDUTY 0 PULSE 5 0 0 .001U .001U 1.55031E-6 1.667E-6
EMAX_DUTY 7p 0 value = { IF(V(MAXDUTY) > 1 | V(7) > 1 , 5 , 0)}
R2 SHDN_N Gnd 100meg
X1 Clk_ILIMIT 7p  Q QB SRLATCHSHP_BASIC_GEN
E_B6 10 Gnd value = { IF(I(VRSENSE) > 2 , 5 , 0)}
VRSENSE SW 12 0
R8 Vsense Gnd 33m
R101 10 101 1
C101 101 Gnd 1n
E_ILIMIT_1 CUR_LIMIT_n1 0 value = { IF(V(101) > 2.5, 5 , 0)}
RILIMIT CUR_LIMIT_n1 CUR_LIMIT_n1_d 10m
D_D1ILIMIT CUR_LIMIT_n1_d CUR_LIMIT_n2 D_D_Ilimit
CILIMIT CUR_LIMIT_n2 0 1n
SW2  CUR_LIMIT_n2 0 MAXDUTY 0  S_VSWITCH_2
.MODEL S_VSWITCH_2 VSWITCH (RON=500M ROFF=1G VON=400M VOFF=300M)
E_buff CUR_LIMIT_n3 0 value = { IF(V(CUR_LIMIT_n2) > 1.25 , 5 , 0)}
E_CLK_ILIMIT Clk_ILIMIT 0 value = { IF(V(CUR_LIMIT_n3) > 1.25 , 0 , IF(V(Clk_Clk) > 1.25,5,0))}
.MODEL D_D_Ilimit D( IS=1e-12 TT=10p Rs=0.005 N=.01 )
E_BR 7 Gnd value = { IF(V(Compout) > 2.5 , 5 , IF( V(101) > 2.5 , 5 , 0))}
X3 VSum verx Compoutp COMP_BASIC_GEN
Rcompout Compoutp Compoutp2 1
CCompout Compoutp2 0 1n
ECompout Compout 0 VALUE={IF(V(Compoutp2)>2.5,5,0)}
G_Bg 0 Vc1 value = {V(Vdiff)}
Rm Vc1 0 1Meg
Cm Vc1 0 270p
C3 Vc1 3 1.75n
R5 3 0 1500k
Dclp Vc1 clp Dclamp
Vclp clp 0 0.9
.model Dclamp D (IS=1f N=0.1 TT=10p RS=0.05)
E4 verx 0 Vc1 0 1
Dminlim 0 Vc1 _DMOD
.MODEL _DMOD D BV=3 IBV=1n N=0.01
E3 19 0 BG FB {100u*250/300}
EA1 Vdiff  0 VALUE { LIMIT(V(19),-300u,300u)}	;code_model_here
Esense vsence_scale 0 VALUE={V(Vsense)*48m*250}
X10 vsence_scale Ramp VSum SUM2
VCH Clk_Clk Gnd PULSE 0 5 0 .001U .001U 0.008335E-6 1.667E-6
VRH Ramp Gnd PULSE 0 {1650u*250} 0 1.3336U 80N 25N 1.667U
E_BD 14p 0 value = { IF(V(Q) > 2.5 & V(SHDN_N) > 1.5 , 5 , 0)}
R14p 14p 14pp 1
C14p 14pp 0 1n
SW1   12 VSENSE 14pp 0  S_VSWITCH_1
D_SW1 VSENSE 12 D_ideal
.MODEL D_Ideal D (IS=1f N=1m RS=1m)
.MODEL S_VSWITCH_1 VSWITCH (RON=260m ROFF=1G VON=400M VOFF=300M)
.ENDS LM2731Y_TRANS
*$
.SUBCKT SUM2  1   2   3
E_B1 3 0 value = { V(1) + V(2)}
.ENDS
*$
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB PARAMS: VDD=5 VSS=0.1 VTHRESH=2.5
GQ 0 Qint VALUE = {IF(V(S) > {VTHRESH},5,IF(V(R)>{VTHRESH},-5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
Cdummy1 Q 0 1n
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1 )
.ENDS SRLATCHSHP_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=5 VSS=0 VTHRESH=2.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=5 VSS=0 VTHRESH=2.5	
E_ABM Yint 0 VALUE {IF (V(INP) >
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT LDCR 1 2 PARAMS: L=1u DCR=20m IC=0
L1 1 INT1 {L} IC={IC}
R1 INT1 2 {DCR}
.ENDS LDCR
*$
.SUBCKT DIODE 1 2
d1 1 2 LM2731_33_BOOST_BLOCK_D1_WB_DIODE
.ENDS
*$
.MODEL LM2731_33_BOOST_BLOCK_D1_WB_DIODE d  IS=1e-15 TT=10p Rs=0.05 N=.1  
*$