*$
*TLV70433
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TLV70433
* Date: 03JUN2016
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: SBVU017-January 2011
* Datasheet: SBVS148D -OCTOBER 2010-REVISED JANUARY 2015
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
* Final 1.10
* 1. Updated model with new template which supports load transients and Dropout voltage
*****************************************************************************
* Model Usage Notes:
*
* 1. The following features have been modelled
*      a. Start-up behaviour is modelled
*      b. Line transients do not match
*      c. Load transients match up to 30% to 45%
*      d. Vdropout v/s Iout is modelled
*      e. Current limit is set to 300mA
*      f. PSRR is modelled only till 1st pole and 1st Zero (Model limitation)
* 2. Ground pin is tied to 0V internally hence this model cannot be used in inverting topology, also 
*    Quiescent current, shutdown current and Temperature effects are not been modelled. 
*
*****************************************************************************
.SUBCKT TLV70433_TRANS IN NC_0 NC_1 OUT GND
R_U1_R1         GND U1_N749757  1G  
V_U1_V4         U1_N749267 0 {UVLO}
C_U1_C1         0 U1_N749757  {1e-6*SQRT(TTRN)}  
R_U1_R5         U1_N751173 N522568  10 TC=0,0 
X_U1_U5         IN U1_N749267 U1_N789480 UVLO_OK COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
R_U1_R4         U1_N750599 U1_N749805  10 TC=0,0 
E_U1_E2         U1_DROP 0 TABLE { V(LOAD, 0) } 
+ ( (0,0) (10m,75m) (50m,400m) (100m,850m) (150m,1.7) )
C_U1_C2         0 U1_N749805  1n  
E_U1_ABM14         U1_N754328 0 VALUE { IF(V(UVLO_OK)>0.5, {VREF}, 0)    }
C_U1_C3         0 N522568  1n IC=0 
V_U1_V6         U1_N789480 0 {UHYS}
R_U1_R2         GND U1_N749805  1G  
V_U1_V5         0 U1_N808527 -8.5m
E_U1_ABM5         U1_N751173 0 VALUE { MIN(V(U1_N749805),  
+ MAX(V(IN)-V(U1_DROP), 0))   }
X_U1_U4         U1_N808527 N522568 D_D
E_U1_ABM4         U1_N750599 0 VALUE { V(U1_N749757)  
+ * (ABS(V(OUT)) + 1e-6)  
+ / (ABS(V(FB)) + 1e-6)  }
R_U1_R3         U1_N754328 U1_N749757  {3.333e5*SQRT(TTRN)} TC=0,0 
R_R5         N522990 VYY  {ROUT}  
C_C3         GND VYY  1n  
R_R8         UVLO_OK N522800  10 TC=0,0 
R_R12         GND FB  840k  
R_R11         GND NC_0  1E6 TC=0,0 
C_C4         GND N522800  1u  
R_R10         FB OUT  1.460meg  
E_ABM1         N523010 0 VALUE { {MIN(V(VXX), (V(Vzz)+(ILIM*ROUT)))}    }
R_R9         NC_0 IN  1E9 TC=0,0 
X_F1    N522990 VZZ N522622 VYY TLV70433_F1 
R_R1         VXX N522622  {RINP}  
R_R2         N522568 VXX  {PSRR*RINP}  
X_S2    N522800 GND IN N522622 TLV70433_S2 
C_C1         VXX N522622  {1/(6.28*RINP*POLE)}  
R_R13         NC_1 IN  1E9 TC=0,0 
C_C2         VXX N522568  {1/(6.28*PSRR*RINP*ZERO)}  
C_C5         N522622 GND  500n  
R_R14         GND NC_1  1E6 TC=0,0 
R_R6         N523010 VYY  10 TC=0,0 
V_Vload         VZZ OUT 0Vdc
E_ABM2         LOAD 0 VALUE { I(V_Vload)    }
.PARAM  psrr=0.63m uvlo=2.49 ilim=300m pole=60 zero=2k rinp=1e7 ttrn=1m rout=1m
+  vref=1.205 uhys=0.1
.ENDS TLV70433_TRANS
*$
.subckt TLV70433_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends TLV70433_F1
*$
.subckt TLV70433_S2 1 2 3 4  
S_S2         3 4 1 2 _S2
RS_S2         1 2 1G
.MODEL         _S2 VSWITCH Roff=1E6 Ron=80 Voff=0.1V Von=0.8
.ends TLV70433_S2
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d
*$